USH0000181
refluxing tris(2-fluoro-2,2-dinitroethoxy)methane with aluminum chloride and acetyl chloride to produce chloro bis(2-fluoro-2,2-dinitroethoxy)methane;

reactant | tris(2-fluoro-2,2-dinitroethoxy)methane | FC(COC(OCC(F)([N+](=O)[O-])[N+](=O)[O-])OCC(F)([N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C7H7F3N6O15
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | chloro bis(2-fluoro-2,2-dinitroethoxy)methane | ClC(OCC(F)([N+](=O)[O-])[N+](=O)[O-])OCC([N+](=O)[O-])([N+](=O)[O-])F | C5H5ClF2N4O10
